US06630076B1
To a well degassed solution of 3-(3-bromophenoxy)tetrahydropyran (5.14 g), triphenylphosphine (204 mg), copper(I) iodide (38 mg) and bis(triphenylphosphine)palladium(II) dichloride (3.93 g) in triethylamine (40 ml), maintained under argon atmosphere, trimethylsilylacetylene is added and the mixture is stirred at 85° C. for 3 h. The precipitated ammonium salts was removed by filtration and the filtrate was evaporated to dryness. This affords a yellowish oil which is dissolved in 30 ml of THF containing 3 ml of water, then cooled at 0° C. and treated by dropwise addition of 5 ml of tetrabutylammonium fluoride (1M in THF). After stirring for 30 min the reaction was complete and the obtained brownish solution was filtered over a short silica-gel column and concentrated to yield a brownish residue, which was chromatographed on silica-gel column affording 3-(3-ethynylphenoxy)tetrahydropyran as yellowish crystals.

reactant | 3-(3-bromophenoxy)tetrahydropyran | 5.14 g | BrC=1C=C(OC2COCCC2)C=CC1 | C11H13BrO2
reactant | triphenylphosphine | 204 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | tetrabutylammonium fluoride | 1M, 5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | copper(I) iodide | 38 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.93 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-ethynylphenoxy)tetrahydropyran | C(#C)C=1C=C(OC2COCCC2)C=CC1 | C13H14O2
